US04960929
The procedures of Examples 17 and 18 are repeated, except that in each case 137.5 parts of 5-hydroxyethylsulfonyl-2-nitrobenzoic acid and also the aqueous mother liquor and the Pd catalyst of the previous batch are used, to give in each case about 122 parts of 5-hydroxyethylsulfonylanthranilic acid of melting point 164° to 166° C. and a purity (diazotization) of >99%, that is, mother liquor and catalyst can each be used at least 10 times without deterioration of the product or decrease in yield.

reactant | 5-hydroxyethylsulfonyl-2-nitrobenzoic acid | OCCS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C9H9NO7S
catalyst | Pd | [Pd] | Pd
product | 5-hydroxyethylsulfonylanthranilic acid | OCCS(=O)(=O)C1=CC=C(C(C(=O)O)=C1)N | C9H11NO5S
